US04873236
4-[[[2-[2-[(Dipropylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one
4.2 g (8.15 mol) of 3-chloro-4-[[[2-[2-[(dipropylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one were dissolved in 350 ml of hot ethanol and after the addition of 3 g of palladium on animal charcoal (20%), the mixture was hydrogenated for 20 hours under a hydrogen pressure of 50 bar and at a temperature of 40° C. The catalyst was filtered off, the filtrate was evaporated down in vacuo, the residue was taken up in 20 ml of water, the solution obtained was made alkaline with sodium hydroxide and extracted exhaustively with dichloromethane. The combined extracts were dried over sodium sulphate and evaporated down and the residue remaining was crystallised once from ethyl acetate and once from acetonitrile. 2.1 g (54% of theory) of colourless crystals were obtained, m.p. 153°-155° C.

reactant | 3-chloro-4-[[[2-[2-[(dipropylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one | 8.15 mol, 4.2 g | ClC1=CN(C2=C1N(C1=C(NC2=O)C=CC=C1)C(=O)NCCN1C(CCCC1)CN(CCC)CCC)C | C27H39ClN6O2
reactant | charcoal | C | CH4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium | 3 g | [Pd] | Pd
product | 4-[[[2-[2-[(Dipropylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1-methyl-1,4,9,10-tetrahydro-pyrrolo[3,2-b][1,5]benzodiazepin-10-one | C(CC)N(CCC)CC1N(CCCC1)CCNC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)N(C=C2)C | C27H40N6O2
